US06413938B1
5,6-Dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(cyclopropyl)-1H-benzimidazol-2-amine
Following General Procedure V, cyclopropyl amine (Aldrich, 5 mL, 71.28 mmol), and 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (250 mg, 0.65 mmol) reacted for 92 h. Purification on a silica gel column with 1:15 methanol:CH2Cl2 gave the title compound (120 mg, 0.33 mmol, 52%); MS (El): m/z (rel. intensity) 358 (0.08, M+); 1H NMR (DMSO-d6) δ7.48 (s, 1H, Ar—H), 7.35 (s, 1H, Ar—H), 7.13 (d, 1H, NH, J=2.0 Hz), 5.61 (d,1H, CH, J=6.6 Hz), 5.25 (m, 2H, 2 overlapping OH), 4.36 (m,1H, CH), 3.88 (m, 1H, CH), 3.79 (m, 1H, CH), 2.76 (m, 1H, CH), 1.36 (d, 3H, CH3, J=6.3 Hz), 0.70 (m, 2H, CH2), 0.53 (m, 2H, CH2).

reactant | cyclopropyl amine | 71.28 mmol, 5 mL | C1(CC1)N | C3H7N
reactant | 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.65 mmol, 250 mg | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5,6-Dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(cyclopropyl)-1H-benzimidazol-2-amine | 0.33 mmol, 120 mg, 52% | ClC1=CC2=C(N(C(=N2)NC2CC2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C=C1Cl | C15H17Cl2N3O3
